US20010041720A1
A one-necked round-bottom flask (1l) equipped with a magnetic stirrer and addition funnel was charged with NaOH-pellets (15,6 g), tetrahydrofuran (400 ml) and ethylnipecotate (50 ml, 324 mmol). To the stirred mixture at room temperature was added dropwise a solution of Boc2O (84,9 g, 389 mmol) dissolved in tetrahydrofuran (150 ml) (1 hour, precipitation of white solid, NaOH-pellets dissolved, exoterm). The mixture was stirred overnight at room temperature. The mixture was added to EtOAc (500 ml) and H2O (2000 ml), and the aqueous layer was re-extracted with EtOAc (2×500 ml) and the combined organic layers were washed with brine (100 ml), dried over MgSO4, filtered and concentrated in vacuo to afford piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (82,5 g) as a thin yellow oil.

reactant | NaOH | [OH-].[Na+]
reactant | ethylnipecotate | 324 mmol, 50 ml | C(C)OC(C1CNCCC1)=O | C8H15NO2
reactant | Boc2O | 389 mmol, 84,9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | 500 ml | CCOC(=O)C | C4H8O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | H2O | 2000 ml | O | H2O
product | piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 82,5 g | C(C)OC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO4
